US06277871B1
N-benzyl-N-2-thiazolylmethylchloroacetamide
A stirred solution of N-benzyl-N-2-thiazolylmethylamine (204 mg, 1.0 mmol) in 5 mL of dichloromethane was cooled to 0° C. The solution was treated with 5 mL of saturated, aqueous NaHCO3 followed by the addition of chloroacetyl chloride (0.088 mL, 1.1 mmol). The biphasic mixture was stirred vigorously for 1 hour and poured into a separatory funnel. The layers were separated and the aqueous layer extracted with an additional 5 mL portion of dichloromethane. The combined organic phases were dried (Na2SO4), filtered, and concentrated to provide the title compound which was used in the next step without further purification.

reactant | N-benzyl-N-2-thiazolylmethylamine | 1.0 mmol, 204 mg | C(C1=CC=CC=C1)NCC=1SC=CN1 | C11H12N2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | chloroacetyl chloride | 1.1 mmol, 0.088 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-benzyl-N-2-thiazolylmethylchloroacetamide | C(C1=CC=CC=C1)N(C(CCl)=O)CC=1SC=CN1 | C13H13ClN2OS
